datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8](=[C:9]([C:10]([H:16])([H:17])[H:18])[C:11]([H:19])([H:20])[H:21])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])([C:9]([C:10]([H:16])([H:17])[H:18])[C:11]([H:19])([H:20])[H:21])[H:15])[H:3],42.1747
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5](=[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:17])[H:16])([H:14])[H:15])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]([C:3]1([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]1([C:8]([H:18])([H:19])[H:20])[C:9]#[C:10][H:21])[H:12])[H:11],105.73
[C:0]1([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])=[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21>>[H:11].[c:0]1([H:10])[c:1]([H:12])[c:2]([H:13])[c:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]12,118.00972
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7]([C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:18])[H:4].[C:7]([C:8]([c:9]1[c:10]([H:20])[c:11]([H:21])[c:12]([H:22])[c:13]([H:23])[c:14]1[H:24])[H:19])([H:15])([H:16])[H:17],21.3384
[C:0]([O:1][H:4])([H:2])[H:3].[O:5][O:6][H:7]>>[C:0](=[O:1])([H:2])[H:3].[H:4][O:5][O:6][H:7],0.0
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])[H:19])([H:17])[H:18])([H:15])[H:16])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])[C:7]1([C:8]([H:20])([H:21])[H:22])[C:9]#[C:10][H:23])[H:11],99.119
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]#[C:5][H:10])[H:6].[C:11](=[C:12]([H:15])[H:16])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]#[C:5][H:10])[H:13])[H:6].[C:11](=[C:12]([H:15])[H:16])[H:14],120.918
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15](=[S:16])[H:19])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14]([C:15](=[S:16])[H:19])([H:17])[H:18],64.852
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7]>>[C:0](=[O:1])[H:3].[H:2][C:4]([C:5]([H:8])([H:9])[H:10])([H:6])[H:7],24.5182
[C:0]([C:1](=[C:2]([C:3]([C:4]([C:5]([C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])[H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0]([C:1]([C:2](=[C:3]([H:15])[H:16])[H:14])([H:13])[H:19])([H:10])([H:11])[H:12].[C:4](=[C:5]([C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])[H:20])([H:17])[H:18],205.0
[C:0]([C:1](=[C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])[c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])([H:16])([H:17])[H:18].[C:32]([C:33](=[C:34]([H:38])[H:39])[H:37])([H:35])[H:36]>>[C:0]([C:1]([C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])([c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])[C:32]([C:33](=[C:34]([H:38])[H:39])[H:37])([H:35])[H:36])([H:16])([H:17])[H:18],60.7098
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23])[H:8])([H:5])([H:6])[H:7],48.911
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14]([C:15]([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:15]([C:14]([H:22])([H:23])[H:24])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])[H:8])([H:6])[H:7],30.2503
[O:0]=[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][O:7][H:17])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:0]=[C:1]([C:2]([C:3]([C:4]([C:5]([O:6])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8].[O:7][H:17],179.912
[O:0].[c:1]1[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]1[H:11]>>[O:0][c:1]1[c:2]([H:7])[c:3]([H:8])[c:4]([H:9])[c:5]([H:10])[c:6]1[H:11],0.0
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4](=[C:5]([C:6]([C:7](=[C:8]([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])[H:20])([H:18])[H:19])[H:17])[H:16])[H:12]>>[C:0](#[C:1][C:2]1([C:3]([H:13])([H:14])[H:15])[C:4]([H:16])=[C:5]([H:17])[C:6]([H:18])([H:19])[C:7]([H:20])[C:8]1([C:9]([H:21])([H:22])[H:23])[C:10]#[C:11][H:24])[H:12],130.583
